US04710507
A stirred mixture of 2-amino-5-iodobenzaldehyde (2.0 g), ethyl nitroacetate (4.2 g), and piperidine (0.7 g) was heated under reflux for 1.5 hours in o-xylene (100 cm3). The cooled solution was then concentrated in vacuo and the solid residue was recrystallised from chloroform-isopropanol to afford 6-iodo-3-nitro-2-(1H)-quinolone, m.p. 279°-282°, (1.14 g).

reactant | 2-amino-5-iodobenzaldehyde | 2.0 g | NC1=C(C=O)C=C(C=C1)I | C7H6INO
reactant | ethyl nitroacetate | 4.2 g | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | piperidine | 0.7 g | N1CCCCC1 | C5H11N
solvent | o-xylene | 100 cm3 | CC=1C=CC=CC1C | C8H10
product | 6-iodo-3-nitro-2-(1H)-quinolone | IC=1C=C2C=C(C(NC2=CC1)=O)[N+](=O)[O-] | C9H5IN2O3
